US07399767B2
3-(2,4-Dimethoxy-pyrimidin-5-yl)-7-methoxy-4-methyl-chromen-2-one
The title product was prepared as a white solid according to the procedure described in Example 9 using 1-(2-hydroxy-4-methoxy-phenyl)-ethanone and (2,4-dimethoxy-pyrimidin-5-yl)-acetic acid as the starting material.

reactant | 1-(2-hydroxy-4-methoxy-phenyl)-ethanone | OC1=C(C=CC(=C1)OC)C(C)=O | C9H10O3
reactant | (2,4-dimethoxy-pyrimidin-5-yl)-acetic acid | COC1=NC=C(C(=N1)OC)CC(=O)O | C8H10N2O4
product | 3-(2,4-Dimethoxy-pyrimidin-5-yl)-7-methoxy-4-methyl-chromen-2-one | COC1=NC=C(C(=N1)OC)C=1C(OC2=CC(=CC=C2C1C)OC)=O | C17H16N2O5
